US07700638B2
N-(2-Cyanoethyl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylamide
This was prepared from 3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester in a similar manner to 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)prop-2-en-1-one. The oily residue was purified by preparative LCMS to afford, after removal of the solvent, the title compound as a white solid (13 mg, 5%), m/z 385.0 (M+H)+.

reactant | 3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester | COC(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C18H13F3N2O2
reactant | 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)prop-2-en-1-one | CN1CCN(CC1)C(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C22H21F3N4O
product | N-(2-Cyanoethyl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylamide | C(#N)CCNC(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C20H15F3N4O
